US07049313B2
2-(4-Hydroxy-9H-thioxanthen-1yl)-6-morpholin-4-yl-pyran-4-one (87)
Carbonic acid tert-butyl ester 1-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-4-yl ester (3.00 g, 6.81 mmol), 2-chloro-6-morpholin-4-yl-pyran-4-one (1.22 g, 5.67 mmol) and potassium carbonate (2.07 g, 14.98 mmol) were suspended in anhydrous dioxane (6 ml) under nitrogen atmosphere. The solution was degassed for 15 minutes. To the solution tetrakis(triphenylphosphino) palladium (291 mg, 5% eq.) was added. The mixture was degassed for a further 5 minutes. The reaction was heated at 90° C. under nitrogen atmosphere for 24 hours. The solvent was evaporated in vacuo and the crude mixture was purified by column chromatography (9:1, ethyl acetate/ethanol), to yield the title compound (421 mg, 16%) as a light yellow amorphous solid. 1H NMR (300 MHz, DMSO-d6): δH=3.33 (4H, t), 3.67 (4H, t), 3.88 (2H, s), 5.45 (1H, d), 6.05 (1H, d), 6.87 (1H, d), 7.24–7.65 (5H, m), 10.62 (1H, bs); m/z (LC-MS, ESP), RT=3.96 min, (M++1)=394.

reactant | Carbonic acid tert-butyl ester 1-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-4-yl ester | 6.81 mmol, 3.00 g | CC1(OB(OC1(C)C)C1=CC=C(C=2SC3=CC=CC=C3CC12)OC(OC(C)(C)C)=O)C | C24H29BO5S
reactant | 2-chloro-6-morpholin-4-yl-pyran-4-one | 5.67 mmol, 1.22 g | ClC=1OC(=CC(C1)=O)N1CCOCC1 | C9H10ClNO3
reactant | potassium carbonate | 14.98 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 2-(4-Hydroxy-9H-thioxanthen-1yl)-6-morpholin-4-yl-pyran-4-one | 421 mg, 16% | OC1=CC=C(C=2CC3=CC=CC=C3SC12)C=1OC(=CC(C1)=O)N1CCOCC1 | C22H19NO4S
